US05232979
Preparation of 5-(p-Chlorophenyl)-1-methoxypyrrole-3-carboxylic acid, ethyl ester
Potassium tert-butoxide (4.32 g, 0.0385 mol) is added portionwise to a 0° C. solution of ethyl 5-(p-chlorophenyl)-1-hydroxypyrrole-3-carboxylate (9.3 g, 0.035 mol) in anhydrous tetrahydrofuran. Methyl iodide (5.46 g, 0.0385 mol) is then added slowly to the solution at room temperature. The reaction mixture is stirred for 3 hours, diluted with water and extracted with ether. The combined ether extracts are washed sequentially with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give a solid. Crystallization from hexanes gives the title compound as a white crystalline solid (9.25 g, 94%), mp 65°-66° C.

reactant | Potassium tert-butoxide | 0.0385 mol, 4.32 g | CC(C)([O-])C.[K+]
reactant | ethyl 5-(p-chlorophenyl)-1-hydroxypyrrole-3-carboxylate | 0.035 mol, 9.3 g | ClC1=CC=C(C=C1)C1=CC(=CN1O)C(=O)OCC | C13H12ClNO3
reactant | Methyl iodide | 0.0385 mol, 5.46 g | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(p-Chlorophenyl)-1-methoxypyrrole-3-carboxylic acid, ethyl ester | 9.25 g, 94% | ClC1=CC=C(C=C1)C1=CC(=CN1OC)C(=O)OCC | C14H14ClNO3
